US07626021B2
1-Bromo-2-difluoromethoxy-benzene (1 g, 4.48 mmol), bis(pinacolato)diboron (1.25 g, 4.93 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (36.6 mg, 0.045 mmol) and anhydrous potassium acetate (880 mg, 8.9 mmol) were suspended in anhydrous DMA (5 mL) under an atmosphere of nitrogen. The mixture was stirred at 135° C. for 12 h. The cooled mixture was poured into 50 mL of water and 100 mL of ether. The organic layer was separated, dried over magnesium sulfate and concentrated. Purification by flash silica gel chromatography using a gradient of ethyl acetate and hexanes afforded 208 mg (0.77 mmol, 17%) of 2-(2-difluoromethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane as a white solid (MS: m/z 271 [MH+]) which was directly used in the next step.

reactant | 1-Bromo-2-difluoromethoxy-benzene | 4.48 mmol, 1 g | BrC1=C(C=CC=C1)OC(F)F | C7H5BrF2O
reactant | bis(pinacolato)diboron | 4.93 mmol, 1.25 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 8.9 mmol, 880 mg | C(C)(=O)[O-].[K+]
reactant | water | 50 mL | O | H2O
solvent | DMA | 5 mL | CC(=O)N(C)C | C4H9NO
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-(2-difluoromethoxy-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.77 mmol, 208 mg, 17% | FC(OC1=C(C=CC=C1)B1OC(C(O1)(C)C)(C)C)F | C13H17BF2O3
